US05240935
A mixture of ethyl 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylate (32.9 g, 100 mmol), ethanol (150 mL), water (150 mL) and NaOH (4.8 g, 120 mmol) were refluxed for 18 hours. The solvent was removed in vacuo and the residue was diluted with water and washed with ether (1×50 mL). The aqueous layer was acidified with acetic acid (6.9 mL, 120 mmol) and extracted with CH2Cl2 (3×50 mL). The organic layers were combined, washed with brine, dried over MgSO4 and concentrated in vacuo to afford 30.3 g (100%) of 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylic acid.

reactant | ethyl 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylate | 100 mmol, 32.9 g | CC1N(C2C(CC1C(C2)C(C)C)C(=O)OCC)CC2=CC=CC=C2 | C21H31NO2
reactant | ethanol | 150 mL | C(C)O | C2H6O
reactant | NaOH | 120 mmol, 4.8 g | [OH-].[Na+]
reactant | acetic acid | 120 mmol, 6.9 mL | C(C)(=O)O | C2H4O2
solvent | water | 150 mL | O | H2O
product | 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylic acid | 30.3 g, 100% | CC1N(C2C(CC1C(C2)C(C)C)C(=O)O)CC2=CC=CC=C2 | C19H27NO2
